US04505923
6-(3-t-butylamino-2-hydroxypropoxy)benzothiazole-2-sulfonamide
A solution of 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide (1.14 gm, 4.0 mmol) in acetonitrile (16 mL) and methanol (4 mL) containing t-butylamine (0.88 mL, 0.4 mmol) was warmed at 50° C. for 15-20 hours. The solvents were evaporated and the residue (1.1 gm) was chromatographed on silica gel eluting with 20-30% methanol/chloroform (V/V). The appropriate fractions were combined and evaporated. The residue was digested in acetonitrile, cooled and the produce collected (0.62 gm), m.p. 195°-196° C.

reactant | 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide | 4.0 mmol, 1.14 gm | O1C(COC2=CC3=C(N=C(S3)S(=O)(=O)N)C=C2)C1 | C10H10N2O4S2
reactant | t-butylamine | 0.4 mmol, 0.88 mL | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | methanol | 4 mL | CO | CH4O
product | 6-(3-t-butylamino-2-hydroxypropoxy)benzothiazole-2-sulfonamide | C(C)(C)(C)NCC(COC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1)O | C14H21N3O4S2
